US04698352
In 30 ml of N,N-dimethylformamide was dissolved 2.0 g of methyl 5-(cyclohexen-4-yl)-3-oxo-4-pentenoate and 1.4 g of N,N-dimethylformamidodimethylacetal was added thereto. They were reacted at 70° C. for 1.5 hours. To the reaction mixture was then added 1.3 g of 4-hydroxy-2-methylaniline at 70° C., and the resulting mixture was subjected to reaction at 80° C. for 2 hours and at 140° C. for 3 hours. After completion of this reaction, the reaction mixture was cooled to room temperature, and the solvent was removed by distillation under reduced pressure. The residue was dissolved in 20 ml of dioxane, and a solution of 2.4 g of 2,3,5,6-tetrachloro-p-benzoquinone in 15 ml of dioxane was added dropwise thereto at 80° C., followed by reaction at the same temperature for one hour. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was suspended in 30 ml of chloroform and 30 ml of water. After adjusting the pH of the suspension to 7.5 with sodium hydrogencarbonate, the organic layer was separated, washed successively with 10 ml of water and 20 ml of a saturated aqueous solution of sodium chloride, and then dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 1.3 g of methyl 6-(cyclohexen-4-yl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinate having a melting point of 250° C. or more.

reactant | methyl 5-(cyclohexen-4-yl)-3-oxo-4-pentenoate | 2.0 g | C1=CCC(CC1)C=CC(CC(=O)OC)=O | C12H16O3
reactant | 4-hydroxy-2-methylaniline | 1.3 g | OC1=CC(=C(N)C=C1)C | C7H9NO
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 6-(cyclohexen-4-yl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinate | 1.3 g | C1=CCC(CC1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=C(C=C(C=C1)O)C | C20H21NO4
